US07230098B2
{4-[6-Amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-phenyl)[(2R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl]-methanone was prepared from 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-benzoic acid and (2R)-2-pyrrolidin-1-ylmethyl-pyrrolidine following procedure 4.

reactant | 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-benzoic acid | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C=CC=C1Cl)Cl | C19H14Cl2N2O3
reactant | (2R)-2-pyrrolidin-1-ylmethyl-pyrrolidine | N1(CCCC1)C[C@@H]1NCCC1 | C9H18N2
product | {4-[6-Amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-phenyl)[(2R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl]-methanone | NC1=C(C=C(C=N1)C1=CC=C(C=C1)C(=O)N1[C@H](CCC1)CN1CCCC1)OCC1=C(C=CC=C1Cl)Cl | C28H30Cl2N4O2
